US09233889B2
In the embodiment illustrated in FIG. 7, phenol process 700 comprises: Step 710: treating hydrogen stream 702 and recycle stream 704 to at least partially remove at least one impurity and form stream 708; optional Step 720: treating benzene stream 706 to at least partially remove at least one impurity to form stream 711; Step 730: hydroalkylating streams 708 and 711 to form at least some cyclohexylbenzene in stream 733; Step 740: oxidizing at least a portion of the cyclohexylbenzene in stream 733 to form cyclohexylbenzene peroxide in stream 744; Step 750: cleaving the cyclohexylbenzene peroxide in stream 744 to form at least some phenol and cyclohexanone in stream 755; and Step 760: dehydrogenating at least a portion of the cyclohexanone in stream 755 to form at least some additional phenol in stream 766 and at least some hydrogen in recycle stream 704.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen | [H][H] | H2
product | cyclohexylbenzene | C1(CCCCC1)C1=CC=CC=C1 | C12H16
